US07291631B2
A solution of 2-methyl-3-phenoxy-pyridine 1-oxide (0.690 g, 3.40 mmol) in Ac2O (3.4 mL) stirred at 80° C. for 3 h. The solution was concentrated and the resulting residue was diluted with CH2Cl2 (30 mL). The organic layer was washed with saturated aqueous NaHCO3 (2×30 mL), dried (MgSO4), and concentrated. Purification by column chromatography on silica gel with hexanes/Et2O (1:1) afforded acetic acid 3-phenoxy-pyridin-2-ylmethyl ester as a clear oil (0.234 g, 28%). 1H NMR (CDCl3) δ 2.07 (s, 3H), 5.34 (s, 2H), 7.00 (d, 2H, J=8.0 Hz), 7.13-7.23 (m, 2H), 7.36 (m, 2H), 8.39 (dd, 1H, J=3.4, 2.1 Hz).

reactant | 2-methyl-3-phenoxy-pyridine 1-oxide | 3.40 mmol, 0.690 g | CC1=[N+](C=CC=C1OC1=CC=CC=C1)[O-] | C12H11NO2
reactant | Ac2O | 3.4 mL | CC(=O)OC(=O)C | C4H6O3
product | acetic acid 3-phenoxy-pyridin-2-ylmethyl ester | 0.234 g, 28% | O(C1=CC=CC=C1)C=1C(=NC=CC1)COC(C)=O | C14H13NO3
